US08865321B2
Synthesis of N,N′-dipyrid-4-yl-1,2-benzenediamine
The synthesis is carried out in accordance with the general procedure of Example 2 from 56.6 g (240 mmol) of 1,2-dibromobenzene and 47.5 g (505 mmol) of 4-aminopyridine. The precipitated solid is recrystallised from toluene/acetonitrile (5:1), and the residue is washed with MeOH, giving 46.2 g (176 mmol) of a crystalline solid. The total yield is 73%.

reactant | 1,2-dibromobenzene | 240 mmol, 56.6 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | 4-aminopyridine | 505 mmol, 47.5 g | NC1=CC=NC=C1 | C5H6N2
product | N,N′-dipyrid-4-yl-1,2-benzenediamine | 176 mmol, 46.2 g, yield is 73% | N1=CC=C(C=C1)NC=1C(=CC=CC1)NC1=CC=NC=C1 | C16H14N4
